US07417050B2
(a) 2-Methyl-4-triethylstannyl-thiazole
n-Butyllithium (1.6M, 3.3 mL, 5.35 mmol) was added to a solution of 2,4-dibromothiazole (1.0 g, 4.12 mmol) in anhydrous ether (10 mL) stirred at −78 ° C. under nitrogen. After 20 minutes, methyl trifluromethanesulfonate (878 mg, 5.35 mmol) was added, then the reaction mixture was allowed to warm to room temperature, and stirred for another 1 h. The mixture was quenched and washed with water, washed with brine, dried through MgSO4, and then the solvent was evaporated to give a brown oily residue of 2-methyl-4-bromo-thiazole (900 mg). Under nitrogen, the 2-methyl-4-bromo-thiazole (430 mg, 2.42 mmol) dissolved in anhydrous ether (5 mL) then cooled to −78° C. under nitrogen. n-Butyllithium (1.6M, 1.7 mL, 2.66 mmol) was added, followed, after 10 min by triethylstannyl bromide (760 mg, 2.66 mmol). The solution was then warmed to room temperature, and stirred for another 1 h. The mixture was quenched, and washed with 1N sodium hydroxide, dried through MgSO4, and then the solvent was evaporated to give the sub-title compound give as a brown oily residue (655 mg), which was used without further purification in the next step.

reactant | 2-methyl-4-bromo-thiazole | 2.42 mmol, 430 mg | CC=1SC=C(N1)Br | C4H4BrNS
reactant | n-Butyllithium | 2.66 mmol, 1.6M, 1.7 mL | C(CCC)[Li]
reactant | triethylstannyl bromide | 2.66 mmol, 760 mg | C(C)[Sn](CC)(CC)Br
solvent | ether | 5 mL | CCOCC | C4H10O
product | 2-Methyl-4-triethylstannyl-thiazole | CC=1SC=C(N1)[Sn](CC)(CC)CC | InChI=1S/C4H4NS.3C2H5.Sn/c1-4-5-2-3-6-4;3*1-2;/h3H,1H3;3*1H2,2H3;
